2189-12-21 06:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - cardioversion yesterday at 10:45 PM; a-fib aflutter prior to dcc hr
   128 synchron. shock 200 j x1
   - repeatedly low BP overnight with SBP in 70-80s despite good
   mentation, urine output, well- perfused extremities
   - received in total 1.5 L
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2189-12-20**] 09:52 PM
   Ciprofloxacin - [**2189-12-20**] 11:53 PM
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Propofol - [**2189-12-20**] 10:25 PM
   Heparin Sodium - [**2189-12-20**] 11:52 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-12-21**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 60 (32 - 129) bpm
   BP: 80/41(51) {72/41(51) - 108/70(75)} mmHg
   RR: 22 (9 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,782 mL
                                                                    823 mL
   PO:
             TF:
   IVF:
                                                                    782 mL
                                                                    823 mL
   Blood products:
   Total out:
                                                                    975 mL
                                                                    570 mL
   Urine:
                                                                    425 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    807 mL
                                                                    253 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///15/
   Physical Examination
   GENERAL: NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 8 cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RRR
   S1 S2.  Grade III/VI late peaking SEM with delayed carotid upstrokes.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Crackles and expiratory wheeze  at
   RLL
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.   Vein graft in place
   EXTREMITIES: No c/c/ +1. erythema/ warmth/ edema over the left foot
   with scattered ecchymoses; well healed surgical scar over b/l groin.
   fluid collection over the right anterior thigh
   SKIN: stasis dermatitis, skin breakdown over the left buttock, scars,
   or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 1+ DP dopplerable PT doppler
   Left: Carotid 2+ Femoral 2+ Popliteal 1+ DP dopplerable PT doppler
   Labs / Radiology
   78 K/uL
   7.3 g/dL
   139 mg/dL
   1.8 mg/dL
   15 mEq/L
   4.9 mEq/L
   66 mg/dL
   110 mEq/L
   134 mEq/L
   22.9 %
   6.6 K/uL
        [image002.jpg]
                            [**2189-12-20**]  09:06 PM
                            [**2189-12-21**]  05:27 AM
   WBC
   6.6
   Hct
   22.9
   Plt
   78
   Cr
   1.8
   TropT
   3.87
   Glucose
   139
   Other labs: PT / PTT / INR:12.5/95.7/1.0, CK / CKMB /
   Troponin-T:424/70/3.87, ALT / AST:42/118, Alk Phos / T Bili:49/0.3,
   Amylase / Lipase:38/, Differential-Neuts:89.7 %, Lymph:7.9 %, Mono:1.8
   %, Eos:0.4 %, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:401 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   FeUrea: 31%
   Iron: 14  calTIBC: 202  Hapto: 154  Ferritn: 458  TRF: 155
   Imaging: No evidence of bilateral LE DVT. Likely right thing hematoma
   CXR: No acute intra thoracic process
   Assessment and Plan
   77 yo M with dCHF (Grade II), severe AS (0.8-1.0cm2), HTN, HL, diet
   controlled DM, PVD s/p Left axillary bifemoral bypass [**2189-8-28**] and s/p
   left fem-pt bypass w/ ISSV [**2184**] presents with a-fib /w RVR.
   .
   # RHYTHM: present  in new a-fib w/ RVR now s/p cardioversion in NSR.
   Given his severe AS the patient is preload dependent and hesitant to
   drop preload with IV push of nodal agents. Unclear etiology as to what
   set off his a-fib. Possible hypovolemia vs. infection vs. PE (right
   axis) vs ACS, but less likely.
   - cont heparin gtt for anticoagulation
   - hold on CTA for now given ARF and already on heparin gtt. LENI
   negative. Consider V/Q scan
   - hold home nodal agents for now given hypotension
   - patient may been BP support with pressors. Will consider CVL and
   a-line for closer monitoring.
   .
   # CORONARIES: Pt reports CP prior to presentation with elevation of CE:
   peak CK 623 but EKG without signs of ACS.  Likely to be myocardial
   injury in the setting of demand ischemia but likely to benefit from
   cardiac cath prior to discharge given hx of severe PVD.  He already
   took ASA 325mg at home and started on heparin gtt.  Plavix was held due
   to his severe AS and h/o PVD may need surgical intervention.  Currently
   CP free with downtrending CE.
   - cont heparin gtt
   - cont ASA, hold plavix
   - cont BB, statin
   - holding ACEI given ARF
   - ECG , TTE in am
   - monitor on tele
   .
   # PUMP: Grade II dCHF. Patient appears hypovolemic on exam and no
   evidence of pulm edema on CXR.  Pt was on lasix at home despite ARF
   - daily weights, I/O, and monitor resp status
   - hold lasix given ARF
   - IVF prn for hypovolemia
   - check TTE
   .
   #. AS: Pt with severe AS. Denied syncope, CHF, or CP (except episode
   today). Valve area 0.8-1.0cm2 and median gradient 58mmHg
   - patient pre-load dependent, transfuse with 2 UpRBC
   - IVF
   - TTE
   - management of AF as above
   .
   #. Bacteremia: [**2-11**] blood cx with GNR, leukocytosis but afebrile.  Low
   BP could be indicative of developing sepsis.  Etiology: likely UTI vs
   cellulits. CXR with no consolidation. Also patient has been on steroids
   so is high risk for serious infection.
   - monitor BP on A-line, keep MAP > 60
   - trend fever curve and leukocytosis
   - infectious workup as above
   - continue meropenem, ciprofloxacin and vancomycin
   - f/u urine cx, blood cx
   - ID consult
   .
   # ARF: Baseline Cr 0.8-1.0. On admission was 2.1. Reportly in ARF at
   OSH and thought to be [**2-9**] Dicloxacillin and started on prednisone.  UA
   showed WBC and RBC. Also on the differential pre-renal, ATN, infection
   or obstruction. Pt with low platelets and anemia, but they are at his
   baseline and unchanged so unlikely TTP/HUS.   Urine lytes consistent
   with prerenal  etiology
   - recheck UA
   - hold lasix and ACEI
   - renal U/S
   - trend cr
   - renally dose meds and avoid nephrotoxins
   - OSH records regarding ARF and ?AIN
   - hold off on Dicloxacillin and pcn
   - hold on prednisone until obtain records. Usually, will biopsy confirm
   AIN prior to treatment. Pt denied biopsy
   .
   #. DOE: [**Doctor Last Name **] score 4.5, moderate prob. LENI negatives. Unable to
   obtain CTA given ARF. Pt already on heparin gtt. No evidence of
   consoliation or pulm edema.  DOE could be related to a-fib.
   - consider V/Q scan
   - management as above
   .
   #. Lower Ext Cellulitis: Pt with likley left foot cellulitis. Pt
   evaluated by vascular who recommended abx treatment. U/S negative for
   DVT.  No other sx of compartment syndrome or acute lower extremity
   ischemia
   - Vanco IV for now
   - will also treat with cipro given UTI as above
   - f/u vascular consult recs
   - f/u LENI final read
   .
   #. Anemia: Pt states received 4U pRBC at OSH. No clear source of blood
   loss. Denied melana or BRBPR. Possible anemia from AS.  Iron studies
   consistent with anemia of chronich dx
 i.e. chronich renal
   insufficiency.  Large drop in Hct from overnight, not fully explained
   by dilution
   - T&S
   - transfuse with 2 UpRBC, consider adding lasix if sx of volume
   overload
   - guaiac stools
   - trend Hct
   .
   # Hyponatermia: Likely hypovolemic hyponatermia. Pt received 1.25L in
   the ED.
   - urine lytes and osm
   - IVF prn
   - cont to trend
   .
   # Non-Gap Acidosis: although need to check albumin to correct for gap.
   No evidence of GI loss. Likely secondary to ARF.
   - check lactate
   - check albumin and recalculate gap
   - ARF management as above
   - infectious workup as above
   .
   # Diabetes: Diet controlled, but on admission glc 300's. Likely
   combination of stress and initiation of steriods.
   - QACHS FS and cover with FS
   - diabetic diet
   .
   FEN: Cardiac/Renal.
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Pain management with tramadol, tyelenol prn
   -Bowel regimen
   .
   CODE: FULL
   .
   COMM: Wife: [**Telephone/Fax (1) 12126**]
   .
   DISPO: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 2351**], [**Name (NI) 7045**].
   I would add the following remarks:
   Medical Decision Making
   As above, Mr. [**Known lastname 12127**] is a pleasant pharmacist who owns his own
   pharmacy in [**Location (un) 101**] who presents with AF with RVR and DOE for one week.
   He was recently diagnosed with ARF on CRF and was given steroids for ?
   Diclox induced renal failure. Fri evening prior to admission he
   developed palpitations with 5/10 chest pain. He presented to the ED and
   was found to be in AF with RVR at 120-140 bpm. Creat was 2.1. He was
   started on an Esmolol drip and given a bolus dose of 0.25 mg Digoxin
   without much reduction in heart rate and ongoing hypotension to
   80-90mmm systolic. He had ongoing hypotension so he was cardioverted
   with 200J sync cardioversion last night. This am he remained relatively
   hypotensive without symptoms. Two of 4 blood culture bottles were
   positive for GNR and so he was started on Miripenim, cipro and vanco.
   Biomarkers were continuing to rise. Therefore, it appears that the
   patient may have developed a UTI which led to bacteremia, hypotension
   the AF with RVR. Will check an echo today to evaluate the AoValve.
   Continue antibiotics for Urosepsis. His NSTEMi is likely demand related
   secondary to hypotension and AF with RVR and so I would recommend a
   cath for AS and coronary anatomy prior to d/c.
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name 372**] or health care proxy. I have discussed
   this plan with Dr(s). [**Name (NI) 7045**] and [**Doctor Last Name 2351**].
   Total time spent on patient care: 40 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 861**] [**Last Name (NamePattern1) **], MD
   on:[**2189-12-21**] 07:14 PM ------

2189-12-22 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - ECHO: LVEF 55%, There is severe aortic valve stenosis (valve area
   0.8cm2). 1+ AR.
   - Renal u/s - no hydronephrosis, no RAS.
   - OSH: rash after starting diclox, labs showed Eo 660 (mild
   eosinophilia), dx with AIN.
   - ID: cont [**Last Name (un) 614**], vanco, cipro until sesitivities return.  Ucx pos for
   ecoli.
   - metabolic acidosis, respiratory alk.  ph 7.33.
   Allergies:
   Dicloxacillin
   AIN;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2189-12-20**] 11:53 PM
   Vancomycin - [**2189-12-21**] 10:20 AM
   Meropenem - [**2189-12-22**] 06:17 AM
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Other ICU medications:
   Other medications:
   [**Year (4 digits) **] 325mg
   Simvastatin 80mg
   Niacin 1000mg
   Famotidine 20mg
   Senna/ bisacodyl
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-12-22**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.3
   HR: 65 (59 - 80) bpm
   BP: 115/61(81) {84/31(49) - 138/91(102)} mmHg
   RR: 19 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.3 kg (admission): 70.8 kg
             Total In:
                                                                  3,986 mL
                                                                    255 mL
   PO:
                                                                    620 mL
             TF:
   IVF:
                                                                  2,616 mL
                                                                    255 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  2,105 mL
                                                                    890 mL
   Urine:
                                                                  2,105 mL
                                                                    890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,881 mL
                                                                   -635 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: 7.38/29/115/12/-6
   Physical Examination
   GENERAL: NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 8 cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RRR
   S1 S2.  Grade III/VI late peaking SEM with delayed carotid upstrokes.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Crackles and expiratory wheeze  at
   RLL
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.   Vein graft in place
   EXTREMITIES: No c/c/ +1. erythema/ warmth/ edema over the left foot
   with scattered ecchymoses; well healed surgical scar over b/l groin.
   fluid collection over the right anterior thigh
   SKIN: stasis dermatitis, skin breakdown over the left buttock, scars,
   or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 1+ DP dopplerable PT doppler
   Left: Carotid 2+ Femoral 2+ Popliteal 1+ DP dopplerable PT doppler
   Labs / Radiology
   92 K/uL
   8.4 g/dL
   171 mg/dL
   1.7 mg/dL
   12 mEq/L
   5.0 mEq/L
   59 mg/dL
   115 mEq/L
   136 mEq/L
   24.3 %
   6.5 K/uL
        [image002.jpg]
                            [**2189-12-20**]  09:06 PM
                            [**2189-12-21**]  05:27 AM
                            [**2189-12-21**]  08:56 AM
                            [**2189-12-21**]  11:49 AM
                            [**2189-12-21**]  05:10 PM
                            [**2189-12-21**]  05:26 PM
                            [**2189-12-21**]  11:08 PM
                            [**2189-12-21**]  11:25 PM
                            [**2189-12-22**]  04:56 AM
                            [**2189-12-22**]  05:09 AM
   WBC
   6.6
   6.5
   Hct
   22.9
   21.1
   25.2
   25.9
   24.3
   Plt
   78
   77
   78
   92
   Cr
   1.8
   1.7
   TropT
   3.87
   7.01
   TCO2
   14
   14
   17
   18
   Glucose
   139
   171
   Other labs: PT / PTT / INR:11.5/55.8/1.0, CK / CKMB /
   Troponin-T:132/12/7.01, ALT / AST:42/118, Alk Phos / T Bili:49/0.3,
   Amylase / Lipase:38/, Differential-Neuts:89.7 %, Lymph:7.9 %, Mono:1.8
   %, Eos:0.4 %, Lactic Acid:0.7 mmol/L, Albumin:2.9 g/dL, LDH:401 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.6 mg/dL, PO4:2.9 mg/dL
   Renal U/S: [**12-21**]: No hydronephrosis. No evidence of renal artery
   stenosis
   Echo: [**12-21**]: The left atrium is elongated. The right atrium is
   moderately dilated. The right atrial pressure is indeterminate. There
   is mild symmetric left ventricular hypertrophy with normal cavity size
   and global systolic function (LVEF>55%). Regional function is grossly
   normal ? Focal hypokinesis of basal inferior wall (clip [**Clip Number (Radiology) **]). Doppler
   parameters are indeterminate for left ventricular diastolic function.
   Right ventricular chamber size and free wall motion are normal. The
   aortic valve leaflets (3) are severely thickened/deformed. There is
   severe aortic valve stenosis (valve area 0.8cm2). Mild (1+) aortic
   regurgitation is seen. The mitral valve leaflets are mildly thickened.
   Mild to moderate ([**1-9**]+) mitral regurgitation is seen. There is
   borderline pulmonary artery systolic hypertension. There is no
   pericardial effusion.
   Compared with the prior study (images reviewed) of [**2189-8-27**], the
   estimated pulmonary artery systolic pressure is now lower. The severity
   of aortic stenosis is similar.
   Assessment and Plan
   77 yo M with dCHF (Grade II), severe AS (0.8-1.0cm2), HTN, HL, diet
   controlled DM, PVD s/p Left axillary bifemoral bypass [**2189-8-28**] and s/p
   left fem-pt bypass w/ ISSV [**2184**] presents with a-fib /w RVR.
   .
   # RHYTHM: present  in new a-fib w/ RVR now s/p cardioversion in NSR.
   Given his severe AS the patient is preload dependent and hesitant to
   drop preload with IV push of nodal agents. Unclear etiology as to what
   set off his a-fib. Possible hypovolemia vs. infection vs. PE (right
   axis) vs ACS, but less likely.
   - cont heparin gtt for anticoagulation
   - hold on CTA for now given ARF and already on heparin gtt. LENI
   negative. Consider V/Q scan
   - hold home nodal agents for now given hypotension
   - patient may been BP support with pressors. Will consider CVL and
   a-line for closer monitoring.
   .
   # CORONARIES: Pt reports CP prior to presentation with elevation of CE:
   peak CK 623 but EKG without signs of ACS.  Likely to be myocardial
   injury in the setting of demand ischemia but likely to benefit from
   cardiac cath prior to discharge given hx of severe PVD.  He already
   took [**Year (4 digits) **] 325mg at home and started on heparin gtt.  Plavix was held due
   to his severe AS and h/o PVD may need surgical intervention.  Currently
   CP free with downtrending CE.
   - cont heparin gtt
   - cont [**Year (4 digits) **], hold plavix
   - cont BB, statin
   - holding ACEI given ARF
   - ECG , TTE in am
   - monitor on tele
   .
   # PUMP: Grade II dCHF. Patient appears hypovolemic on exam and no
   evidence of pulm edema on CXR.  Pt was on lasix at home despite ARF
   - daily weights, I/O, and monitor resp status
   - hold lasix given ARF
   - IVF prn for hypovolemia
   - check TTE
   .
   #. AS: Pt with severe AS severe aortic valve stenosis (valve area
   0.8cm2, peak gradient 64mmhg and mean gradient 42mmHg). Denied syncope,
   CHF, or CP (except episode today).
   - patient pre-load dependent, transfuse with 2 UpRBC
   - IVF
   - TTE
   - management of AF as above
   .
   #. Bacteremia: [**2-11**] blood cx with GNR, leukocytosis but afebrile.  Has
   been on high dose steroids so at risk for serious infection.  Etiology:
   likely UTI vs cellulits bur would also consider hematoma, graft
   infection.  Currently on broad spectrum abx with meropenem, clinda and
   vancomycin (for LLE cellulitis)
   - monitor BP on A-line, keep MAP > 60
   - trend fever curve and leukocytosis
   - imaging of lower extremity grafts to look for etiology of infection
   - continue meropenem, ciprofloxacin and vancomycin
   - f/u urine cx, blood cx
   - ID consult
   .
   # ARF: Baseline Cr 0.8-1.0. On admission was 2.1. Reportly in ARF at
   OSH and thought to be [**2-9**] Dicloxacillin and started on prednisone.  UA
   showed WBC and RBC. Also on the differential pre-renal, ATN, infection
   or obstruction. Pt with low platelets and anemia, but they are at his
   baseline and unchanged so unlikely TTP/HUS.   Urine lytes consistent
   with prerenal  etiology
   - recheck UA
   - hold lasix and ACEI
   - renal U/S
   - trend cr
   - renally dose meds and avoid nephrotoxins
   - OSH records regarding ARF and ?AIN
   - hold off on Dicloxacillin and pcn
   - hold on prednisone until obtain records. Usually, will biopsy confirm
   AIN prior to treatment. Pt denied biopsy
   .
   #. DOE: [**Doctor Last Name **] score 4.5, moderate prob. LENI negatives. Unable to
   obtain CTA given ARF. Pt already on heparin gtt. No evidence of
   consoliation or pulm edema.  DOE could be related to a-fib.
   - consider V/Q scan
   - management as above
   .
   #. Lower Ext Cellulitis: Pt with likley left foot cellulitis. Pt
   evaluated by vascular who recommended abx treatment. U/S negative for
   DVT.  No other sx of compartment syndrome or acute lower extremity
   ischemia
   - Vanco IV for now
   - will also treat with cipro given UTI as above
   - f/u vascular consult recs
   - f/u LENI final read
   .
   #. Anemia: Pt states received 4U pRBC at OSH. No clear source of blood
   loss. Denied melana or BRBPR. Possible anemia from AS.  Iron studies
   consistent with anemia of chronich dx
 i.e. chronich renal
   insufficiency.  Large drop in Hct from overnight, not fully explained
   by dilution
   - T&S
   - transfuse with 2 UpRBC, consider adding lasix if sx of volume
   overload
   - guaiac stools
   - trend Hct
   .
   # Hyponatermia: Likely hypovolemic hyponatermia. Pt received 1.25L in
   the ED.
   - urine lytes and osm
   - IVF prn
   - cont to trend
   .
   # Non-Gap Acidosis: although need to check albumin to correct for gap.
   No evidence of GI loss. Likely secondary to ARF.
   - check lactate
   - check albumin and recalculate gap
   - ARF management as above
   - infectious workup as above
   .
   # Diabetes: Diet controlled, but on admission glc 300's. Likely
   combination of stress and initiation of steriods.
   - QACHS FS and cover with FS
   - diabetic diet
   .
   FEN: Cardiac/Renal.
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with heparin gtt
   -Pain management with tramadol, tyelenol prn
   -Bowel regimen
   .
   CODE: FULL
   .
   COMM: Wife: [**Telephone/Fax (1) 12126**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2189-12-20**] 08:44 PM
   Arterial Line - [**2189-12-21**] 08:55 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **] and Pride.
   I would add the following remarks:
   Medical Decision Making
   Mr [**Known lastname 12127**] is doing very well today with no CP or SOB. Blood cultures
   are positive for E-coli likely urine source. BP much better now off his
   aggressive cardiac regimen and improvement in sepsis. Echo yesterday
   demonstrated AS with gradients 60 (peak)/42 (mean) with [**Location (un) 342**] 0.8 cm2.
   Vascular surgery and ID are following for potential seeding of his
   grafts with e-coli and so he remains on Miripenim, Vanco and Cipro
   until sensitivies return. Hct up to 24 from 21 after 2 u PRBC. For his
   NSTEMI he will continue [**Last Name (LF) 12170**], [**First Name3 (LF) 5**] and we will resume a lower dose of
   BB and ACEI. We will perform a PMIBI prior to discharge for risk
   stratification. Will continue coumadin for PAF on admission. DR.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 161**] who has seen the patient on prior hospital admissions will
   follow the patient on F3
   Above discussed extensively with patient. I have discussed this plan
   with Dr(s). [**Name (NI) **] and Pride.
   Total time spent on patient care: 40 minutes of critical care time.